US07189851B2
Ethyl(9aS)-4-(5-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-2-thienyl)-2 -[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate.
5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-2-thiophenecarboxylic acid (0.100 g, 0.202 mmol) was dissolved in CH2Cl2 (2 mL). R-(−)-1-aminoindane (0.026 mL, 0.303 mmol) was added followed by EDCI (0.047 g, 0.243 mmol) and HOBt (0.033 g, 0.243 mmol). After 14 h of stirring at ambient temperature the reaction mixture was poured onto 5% HCl solution and extracted with CH2Cl2. The organics were washed with sat'd NaHCO3, brine and then dried (Na2SO4), filtered and concentrated to a brown residue. Chromatography on silica gel using 4:1 EtOAc:Hexanes eluted the product to provide the title compound upon concentration as a white solid (0.066 g, 0.108 mmol, 54% yield): 1H NMR (CDCl3, 400 MHz) δ 7.48 (d, J=3.7 Hz, 1H), 7.36 (d, J=6.7 Hz, 1H), 7.28–7.20 (m, 2H), 7.19–15 (m, 3H), 6.97 (t, J=8.6 Hz, 2H), 6.24–6.20 (m, 1H), 5.67 (dd, J=15.3, 7.6 Hz, 1H), 4.69 (dd, J=10.3, 6.4 Hz, 1H), 4.19 (dd, J=14.3, 7.1), 3.76–3.66 (m, 1H), 3.42–3.36 (m, 1H), 3.18–3.01 (m, 5H), 2.96–2.87 (m, 1H), 2.71–2.66 (m, 1H), 2.48–2.40 (m, 1H), 2.37–2.25 (m, 2H), 1.96–1.86 (m, 1H), 1.42–1.35 (m, 1H), 1.13 (t, J=7.1 Hz, 3H); ESMS m/z 610 (M+H)+, 608 (M−H)+; Anal. Calcd. For C35H32F1N3O4S.½H2O: C 67.94 H, 5.38; N, 6.79; found C, 68.09 H 5.31 N 6.80.

reactant | 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-2-thiophenecarboxylic acid | 0.202 mmol, 0.100 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC1=CC=C(C=C1)F)C1=CC=C(S1)C(=O)O | C26H23FN2O5S
reactant | EDCI | 0.243 mmol, 0.047 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.243 mmol, 0.033 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(9aS)-4-(5-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-2-thienyl)-2 -[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | [C@H]1(CCC2=CC=CC=C12)NC(=O)C1=CC=C(S1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)F)C(=O)OCC | C35H32FN3O4S
